US07572809B2
Similar procedure as described in example 384 was used, starting from 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid and 2,6-Dimethyl-piperazine to give (3,5-Dimethyl-piperazin-1-yl)-[1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-methanone. LC-MS: m/e 423 (MH+).

reactant | 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)C(=O)O)NC1=NNC(=C1)C | C17H18N4O3
reactant | 2,6-Dimethyl-piperazine | CC1NC(CNC1)C | C6H14N2
product | (3,5-Dimethyl-piperazin-1-yl)-[1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-methanone | CC1CN(CC(N1)C)C(=O)C=1C=C2C=C(N=C(C2=CC1)OC(C)C)NC1=NNC(=C1)C | C23H30N6O2
